US07157584B2
2-oxo-1,3-dioxolan-4-yl 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate
A solution of 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid (1.0 g), 4-chloro-1,3-dioxolan-2-one (0.41 g) and triethylamine in DMF was stirred at 90° C. for 12 hrs. The reaction mixture was concentrated, and the residue was dissolved in chloroform and 1N hydrochloric acid. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give the title compound (0.20 g, 22%) as a colorless solid.

reactant | 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid | 1.0 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)C(=CC=C2)C(=O)O | C25H20N4O5
reactant | 4-chloro-1,3-dioxolan-2-one | 0.41 g | ClC1OC(OC1)=O | C3H3ClO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-oxo-1,3-dioxolan-4-yl 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | 0.20 g, 22% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)C(=CC=C2)C(=O)OC2OC(OC2)=O | C28H22N4O8
